US06166006
To a solution of ethyl 7-(4-methylthiophenyl)-2,3-dihydro-1-benzoxepine-4-carboxylate (132 mg) in ethanol-tetrahydrofuran (5 ml-5 ml) was added 1N sodium hydroxide (1.0 ml) at room temperature, and the mixture was stirred for 20 hours and concentrated under reduced pressure. To the residue was added 1N hydrochloric acid (2 ml) and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried with magnesium sulfate and concentrated under reduced pressure. The resulting crystal was collected by filtration to give 7-(4-methylthiophenyl)-2,3-dihydro-1-benzoxepine-4-carboxylic acid (113 mg) as colorless crystals.

reactant | ethyl 7-(4-methylthiophenyl)-2,3-dihydro-1-benzoxepine-4-carboxylate | 132 mg | CSC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCO2)C(=O)OCC)C1 | C20H20O3S
reactant | sodium hydroxide | 1N, 1.0 ml | [OH-].[Na+]
solvent | ethanol tetrahydrofuran | 5 ml-5 ml | C(C)O.O1CCCC1
product | 7-(4-methylthiophenyl)-2,3-dihydro-1-benzoxepine-4-carboxylic acid | 113 mg | CSC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCO2)C(=O)O)C1 | C18H16O3S
